US04307033
A mixture of 71.7 g (0.3 mol) of 3,3-dimethyl-2-cyano-cyclopropane-1,1-dicarboxylic acid diethyl ester, 6 ml of water and 100 ml of dimethylformamide was heated to the boiling point under reflux for 20 hours. For working up, the mixture was diluted with toluene, washed twice with 300 ml of water each time, dried and distilled. 30.6 g (61% of theory) of 3,3-dimethyl-2-cyano-cyclopropane-1-carboxylic acid ethyl ester of boiling point 87°-95° C./2 mbar were obtained.

reactant | 3,3-dimethyl-2-cyano-cyclopropane-1,1-dicarboxylic acid diethyl ester | 0.3 mol, 71.7 g | C(C)OC(=O)C1(C(C1(C)C)C#N)C(=O)OCC | C12H17NO4
reactant | water | 6 ml | O | H2O
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,3-dimethyl-2-cyano-cyclopropane-1-carboxylic acid ethyl ester | 30.6 g, 61% | C(C)OC(=O)C1C(C1(C)C)C#N | C9H13NO2
